US08791267B2
Synthesis of 2-bromo-6-(4-fluoro-benzyl)-3-methoxy-benzonitrile (I-124):
To a solution of I-123 (0.15 g, 0.45 mmol) in trifluoroacetic acid (1.0 mL) was added triethylsilane (0.55 g, 4.5 mmol). The reaction mixture was stirred at room temperature for 20 h, then concentrated under vacuum to afford I-124 (0.14 g, 94% yield) as white solid.

reactant | 2-bromo-6-(4-fluoro-benzoyl)-3-methoxy-benzonitrile | 0.45 mmol, 0.15 g | BrC1=C(C#N)C(=CC=C1OC)C(C1=CC=C(C=C1)F)=O | C15H9BrFNO2
reactant | triethylsilane | 4.5 mmol, 0.55 g | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2-bromo-6-(4-fluoro-benzyl)-3-methoxy-benzonitrile | 94% yield | BrC1=C(C#N)C(=CC=C1OC)CC1=CC=C(C=C1)F | C15H11BrFNO
